US04119710
1-(4'-Amino-3'-chloro-5'-fluoro-phenyl)-2-cyclopropylamino-ethanol,
m.p. of the hydrochloride: 175°-177° C. (decomp.), was prepared from 4'-amino-3'-chloro-2-cyclopropylamino-5'-fluoro-acetophenone hydrochloride and sodium borohydride analogous to Example 1.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-chloro-2-cyclopropylamino-5'-fluoro-acetophenone hydrochloride | Cl.NC1=C(C=C(C=C1F)C(CNC1CC1)=O)Cl
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-(4'-Amino-3'-chloro-5'-fluoro-phenyl)-2-cyclopropylamino-ethanol | NC1=C(C=C(C=C1F)C(CNC1CC1)O)Cl | C11H14ClFN2O
